US06960583B2
4-(2,4-dichlorophenyl)-8-(3-pentyl)-7-ethyl-2-methyl-pyrazolo[1,5-a]-1,3,5-triazine
A mixture of N-(thioacetyl)-2,4-dichlorobenzamide (200 mg, 0.81 mmol) and 3-amino-5-ethyl-4-(3-pentyl)pyrazole (146 mg, 0.81 mmol) in dioxan (1 mL) was stirred at reflux temperature for 16 h. After being cooled to room temperature, the reaction mixture was concentrated in vacuo. Preparative TLC using EtOAc:hexanes::1:1 generated the title product (77.3 mg, 24% yield): mp=91-93° C.; NMR (CDCl3,300 MHz): δ 7.64 (d, 1H, J=8), 7.57 (d, 1H, J=2), 7.44 (dd, 1H, J=8,2), 2.77 (q, 2H, J=8), 2.69 (s, 3H), 2.80-2.60 (m, 1H), 2.00-1.80 (m, 4H), 1.25 (t, 3H, J=8), 0.82 (t, 6H, J=7); CI-HRMS m/z Calcd: 377.1294, Found: 377.1303.

reactant | N-(thioacetyl)-2,4-dichlorobenzamide | 0.81 mmol, 200 mg | C(C)(=S)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C9H7Cl2NOS
reactant | 3-amino-5-ethyl-4-(3-pentyl)pyrazole | 0.81 mmol, 146 mg | NC1=NNC(=C1C(CC)CC)CC | C10H19N3
solvent | dioxan | 1 mL | O1CCOCC1 | C4H8O2
product | 4-(2,4-dichlorophenyl)-8-(3-pentyl)-7-ethyl-2-methyl-pyrazolo[1,5-a]-1,3,5-triazine | 77.3 mg, 24% yield | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=2N1N=C(C2C(CC)CC)CC)C | C19H22Cl2N4
